US07863269B2
7c) Methyl 3-aminoimidazo[1,5-a]pyridine-6-carboxylate
Methyl 6-aminomethylnicotinate trifluoroacetate (390 mg) was dissolved in toluene (35 ml) and treated with Hünig's base (230 μl). Cyanogen bromide (0.35 ml of a 5 M solution in acetonitrile) was then slowly added dropwise. After stirring at RT for 3 h, the solvent was stripped off and the residue was taken up with water and saturated sodium hydrogencarbonate solution and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC. The product-containing fractions were combined, freed from the acetonitrile and freeze-dried. The residue was then taken up with a little water, treated with saturated sodium hydrogencarbonate solution and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated. 110 mg of the desired compound were obtained.

reactant | Methyl 6-aminomethylnicotinate trifluoroacetate | 390 mg | FC(C(=O)O)(F)F.NCC1=NC=C(C(=O)OC)C=C1
reactant | Hünig's base | 230 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | Cyanogen bromide | N#CBr | CBrN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | Methyl 3-aminoimidazo[1,5-a]pyridine-6-carboxylate | 110 mg | NC1=NC=C2N1C=C(C=C2)C(=O)OC | C9H9N3O2
